US08580841B2
Preparation of 2-(7-(4-Isobutyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid (Compound 14)
Ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (200 mg, 0.443 mmol) was dissolved in THF (7 mL) and isobutylzinc(II) bromide (2.66 mL, 1.328 mmol) and bis(tri-t-butylphosphine)palladium(0) (0.011 g, 0.022 mmol) were added. The reaction was stirred at room temperature for 16 h and warmed to 50° C. After stirring for 24 h, isobutylzinc(II) bromide (4 mL) was added and the mixture was heated to 90° C. The reaction was cooled to room temperature, and 1.0 M LiOH (5 mL) and dioxane (5 mL) were added. The reaction was stirred at room temperature for 24 h and then acidified to pH 3 with 1 M HCl. The aqueous mixture was extracted three times with EtOAc. The combined extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to provide the title compound (33 mg). LCMS m/z=446.7 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.89 (d, J=6.6 Hz, 6H), 1.87-1.98 (m, 1H), 2.03-2.13 (m, 1H), 2.35 (dd, J=15.9, 9.0 Hz, 1H), 2.60-2.76 (m, 6H), 3.42-3.50 (m, 1H), 5.12 (s, 2H), 6.71 (dd, J=8.6, 2.4 Hz, 1H), 6.93 (d, J=2.4 Hz, 1H), 7.20 (d, J=8.7 Hz, 1H), 7.47 (d, J=8.0 Hz, 1H), 7.67 (d, J=8.2 Hz, 1H), 7.75 (d, J=1.4 Hz, 1H), 10.47 (bs, 1H).

reactant | Ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.443 mmol, 200 mg | ClC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C23H21ClF3NO3
reactant | isobutylzinc(II) bromide | 1.328 mmol, 2.66 mL | [Br-].C(C(C)C)[Zn+]
reactant | isobutylzinc(II) bromide | 4 mL | [Br-].C(C(C)C)[Zn+]
reactant | LiOH | 1.0 M, 5 mL | [Li+].[OH-]
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.022 mmol, 0.011 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(4-Isobutyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 33 mg | C(C(C)C)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C25H26F3NO3
